US07812022B2
2-Chloro-N-(3-{3-[2-(2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-pyrimidin-4-yl]-pyrazolo[1,5-a]pyridin-2-yl}-phenyl)-benzamide
{4-[2-(3-Amino-phenyl)-pyrazolo[1,5-a]pyridin-3-yl]-pyrimidin-2-yl}-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-amine (150 mg, 0.34 mmol) was acylated with 2-chlorobenzoyl chloride (47 μL, 0.37 mmol) in a manner analogous to Example 3 above, to give the title compound as a yellow solid. HRMS calculated C32H23ClN6O3 [M+H]+ 575.1598 found 575.1600.

reactant | {4-[2-(3-Amino-phenyl)-pyrazolo[1,5-a]pyridin-3-yl]-pyrimidin-2-yl}-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-amine | 0.34 mmol, 150 mg | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC2=C(OCCO2)C=C1 | C25H20N6O2
reactant | 2-chlorobenzoyl chloride | 0.37 mmol, 47 μL | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
product | 2-Chloro-N-(3-{3-[2-(2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-pyrimidin-4-yl]-pyrazolo[1,5-a]pyridin-2-yl}-phenyl)-benzamide | ClC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC2=CC3=C(OCCO3)C=C2)C=CC=C1 | C32H23ClN6O3
